US07612055B2
a) 3-(Allyl-benzyloxycarbonyl-amino)-propionic acid
To a solution of 2.5 g (11.2 mmol) 3-benzyloxycarbonylamino-propionic acid in 30 ml DMF and 30 ml THF are added 1.34 g (33.6 mmol, 60% suspension in mineral oil) NaH and the mixture is heated at 60° C. for 3 h. After cooling down 1.42 ml (16.8 mmol) allyl bromide are added. After stirring for 40 h at rt the mixture is diluted with 10% citric acid and extracted three times with EtOAc. The combined organic layers are washed with water, dried with sodium sulfate and the volatiles are removed in vacuo. The residue is chromatographed on silica gel (hexane/EtOAc 3:1), yielding the title product.

reactant | 3-benzyloxycarbonylamino-propionic acid | 11.2 mmol, 2.5 g | C(C1=CC=CC=C1)OC(=O)NCCC(=O)O | C11H13NO4
reactant | NaH | 33.6 mmol, 1.34 g | [H-].[Na+]
reactant | allyl bromide | 16.8 mmol, 1.42 ml | C(C=C)Br | C3H5Br
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 3-(Allyl-benzyloxycarbonyl-amino)-propionic acid | C(C=C)N(CCC(=O)O)C(=O)OCC1=CC=CC=C1 | C14H17NO4
